US05075502
Preparation of [N-(2,3-dihydroxypropyl)-N-(2-hydroxyethyl)]-5-N-(2-hydroxybutyrolactamido)-2,4,6-triiodo-3-N-methylaminocarbonylbenzamide
As in Example 12, the title compound is prepared stepwise by first reacting 5-amino-2,4,6-triiodo-3-N-methylaminocarbonylbenzoyl chloride with 3-(N-2-hydroxyethyl)amino-1, 2-propanediol dissolved in DMAc in the presence of sodium carbonate. The product, 5-amino[N-(2,3,-dihydroxypropyl)-N-(2-hydroxyethyl]-2,4,6-triiodo-3-N-methylaminocarbonylbenzamide, is reacted with acetic anhydride in the presence of pyridine to produce the triacetate, [N-(2-acetoxyethyl)-N-(2,3-diacetoxypropyl)]-5-amino-,4,6-triiodo -3-N-methylaminocarbonylbenzamide. This compound is then reacted with 2,4-dibromobutryl bromide, prepared as in Example 12, Step B, and the product is then cyclized, hydrolyzed, and purified as in Example 12, Steps D and E to produce the final product.

reactant | 3-(N-2-hydroxyethyl)amino-1, 2-propanediol | OCCNCC(CO)O | C5H13NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | DMAc | CC(=O)N(C)C | C4H9NO
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | triacetate | CC(=O)CC(=O)CC(=O)O | C6H8O4
